US04254135
Trans-4-n-butylamino-1-ethyl-3-pyrrolidinol.
A mixture of 22.6 g (0.20 mole) of 3,4-epoxy-1-ethyl-pyrrolidine, 29.2 g (0.40 mol) of n-butylamine and one drop of conc. hydrochloric acid was heated in a bomb at 150° C. for 20 hr. The mixture was cooled to room temperature, diluted with 350 ml of petroleum ether, cooled in an ice bath and the precipitate was collected. The yield of pure compound as white flakes in this step was 18.0 g (48%); m.p. 57.5°-59.0° C. The filtrate was concentrated under high vaccum leaving a residue of 17.5 g (47%) of quite pure product. Total yield in the two steps was 35.5 g (about 95%).

reactant | 3,4-epoxy-1-ethyl-pyrrolidine | 0.20 mole, 22.6 g | O1C2CN(CC21)CC | C6H11NO
reactant | n-butylamine | 0.40 mol, 29.2 g | C(CCC)N | C4H11N
catalyst | hydrochloric acid | one drop | Cl | ClH
product | Trans-4-n-butylamino-1-ethyl-3-pyrrolidinol | C(CCC)N[C@H]1[C@@H](CN(C1)CC)O | C10H22N2O
